US08791132B2
To a degassed solution of 2-(2-allyl-8-chloro-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-3-yl-ethanol (1.0 g, 2.7 mmol) in DCM were added 1,3-dimethyl barbituric acid (1.27 g, 8.1 mmol) and Pd(PPh3)4 (63 mg, 0.054 mmol) and the reaction mixture was stirred at RT for 3 h. The solvent was removed under reduced pressure. The residue was dissolved in saturated potassium carbonate solution and extracted with EtOAc (3×50 mL). The combined organic layer was washed with saturated potassium carbonate (6×20 mL), dried over anhydrous sodium sulfate and concentrated. The residue was purified by column chromatography (neutral alumina, 20% methanol in DCM) followed by reverse phase HPLC to yield 2-(8-chloro-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-3-yl-ethanol. 1H NMR (CD3OD, freebase) δ (ppm): 8.4 (d, 1H), 8.37 (s, 1H), 7.8 (d, 1H), 7.4 (d, 1H), 7.39 (m, 1H), 7.2 (d, 1H), 7.02 (d, 1H), 5.1 (t, 1H), 4.33 (d, 2H), 4.3 (s, 2H), 3.38-3.5 (m, 2H), 3.1 (m, 1H), 2.9 (m, 1H). Separation by chiral HPLC provides enantiomers II-89a-b.

reactant | 2-(2-allyl-8-chloro-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-3-yl-ethanol | 2.7 mmol, 1.0 g | C(C=C)N1CC2=C(N(C=3C=CC(=CC23)Cl)CC(O)C=2C=NC=CC2)CC1 | C21H22ClN3O
reactant | 1,3-dimethyl barbituric acid | 8.1 mmol, 1.27 g | CN1C(=O)N(C(=O)CC1=O)C | C6H8N2O3
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Pd(PPh3)4 | 0.054 mmol, 63 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(8-chloro-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-3-yl-ethanol | ClC1=CC=2C3=C(N(C2C=C1)CC(O)C=1C=NC=CC1)CCNC3 | C18H18ClN3O
